US07528138B2
3-Pyridin-2-yl-6-pyridin-4-yl-pyrazolo[1,5-a]pyrimidin-2-ylamine I-1
A mixture of 4-pyridin-2-yl-1H-pyrazole-3,5-diamine (290 mg, 1.66 mmol) and 2-pyridin-4-yl-malonaldehyde (247 mg, 1.66 mmol) were placed in ethanol (5 mL) with a catalytic amount of acetic acid (6 drops). The reaction mixture was submitted to microwave irradiations at 140° C. for 15 minutes. The crude mixture was cooled down to room temperature and the resulting precipitate was filtered and washed with more ethanol to provide the title as a golden yellow solid (295 mg, 62%). MS (ES+) 289, (ES−) 287. δH (DMSO-d6) 7.16 (1H, dd), 7.21 (2H, m), 7.84 (1H, m), 7.89 (2H, m), 8.57 (2H, br m), 8.65 (2H, d), 8.98 (1H, d), 9.44(1H, d).

reactant | 4-pyridin-2-yl-1H-pyrazole-3,5-diamine | 1.66 mmol, 290 mg | N1=C(C=CC=C1)C=1C(=NNC1N)N | C8H9N5
reactant | 2-pyridin-4-yl-malonaldehyde | 1.66 mmol, 247 mg | N1=CC=C(C=C1)C(C=O)C=O | C8H7NO2
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | acetic acid | 6 drops | C(C)(=O)O | C2H4O2
product | 3-Pyridin-2-yl-6-pyridin-4-yl-pyrazolo[1,5-a]pyrimidin-2-ylamine | 295 mg, 62% | N1=C(C=CC=C1)C=1C(=NN2C1N=CC(=C2)C2=CC=NC=C2)N | C16H12N6
